US06495546B1
To a solution of 1-aminomethyl-1-hydroxy-1,2,3,4-tetrahydronaphthalene (19 g) in 10% acetic acid in water (380 ml) was dropwise added sodium nitrite (11 g) in water (56 ml) at 5° C., and the mixture was stirred at the same temperature for 2 hours. The resulting mixture was diluted with ethyl acetate and separated. The organic layer was successively washed with water, saturated aqueous sodium hydrogencarbonate and brine, dried over anhydrous magnesium sulfate and evaporated in vacuo. The residue was purified. by column chromatography on silica gel (hexane-ethyl acetate) to give 5,7,8,9-tetrahydrobenzocyclohepten-6-one (9.3 g).

reactant | 1-aminomethyl-1-hydroxy-1,2,3,4-tetrahydronaphthalene | 19 g | NCC1(CCCC2=CC=CC=C12)O | C11H15NO
reactant | sodium nitrite | 11 g | N(=O)[O-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | 380 ml | O | H2O
solvent | water | 56 ml | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5,7,8,9-tetrahydrobenzocyclohepten-6-one | 9.3 g | C1=CC=CC2=C1CCCC(C2)=O | C11H12O
